US03982002
650 ml. of vincamine hydrochloride (1.66 millimole) are dissolved in 10 ml. of water, and, after vibration, a solution of 248 mg. (1.73 millimole) of 2-ketoglutaric acid and 145 mg. of sodium bicarbonate in 3 ml. of water is added. After being allowed to stand and cool, 453 mg. of vincamine 2-ketoglutarate are obtained. The resulting solution is concentrated in a rotary evaporator to one third of the original volume and, after cooling, an additional amount of 287 mg. of salt are obtained. A total of 740 mg. of salt is thus obtained, that is to say, a yield of 89%.

reactant | vincamine hydrochloride | 1.66 millimole | CC[C@@]12CCCN3[C@@H]1C4=C(CC3)C5=CC=CC=C5N4[C@](C2)(C(=O)OC)O.Cl
reactant | 2-ketoglutaric acid | 1.73 millimole | O=C(C(=O)O)CCC(=O)O | C5H6O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | vincamine 2-ketoglutarate | yield of 89% | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3.O=C(C(=O)[O-])CCC(=O)[O-] | InChI=1S/C21H26N2O3.C5H6O5/c1-3-20-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(17(15)18(20)22)21(25,13-20)19(24)26-2;6-3(5(9)10)1-2-4(7)8/h4-5,7-8,18,25H,3,6,9-13H2,1-2H3;1-2H2,(H,7,8)(H,9,10)/p-2/t18-,20+,21+;/m1./s1
